US04971993
N-benzylsulfonyl-L-alanyl-L-proline
L-alanyl-L-proline (1.86 g, 10 mmole) was dissolved in 1N aqueous sodium hydroxide (10 ml)-dioxane (3 ml), and dioxane (7 ml) solution of benzylsulfonylchloride (1.91 g, 10 mmole) was added dropwise to the solution while cooling with ice and stirring while keeping pH value thereof to between 10 and 11 using 1N aqueous sodium hydroxide. After completion of the addition, the mixture was further stirred for 2 hours at room temperature. Water (20 ml) was added thereto and the mixture was washed with diethyl ether (40 ml). The water layer was filtered and the filtrate thus obtained was adjusted to pH 1.5 with 1N aqueous hydrochloric acid while cooling with ice and stirring to precipitate N-benzylsulfonyl-L-alanyl-L-proline in a crystalline form[yield: 1.78 g, 52.3%).

reactant | L-alanyl-L-proline | 10 mmole, 1.86 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | benzylsulfonylchloride | 10 mmole, 1.91 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Water | 20 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-benzylsulfonyl-L-alanyl-L-proline | C(C1=CC=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C15H20N2O5S
